US08629271B2
b) 2-(2,6-Difluoro-3-((4-(5-methylthiophene-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenyl)acetaldehyde
TFA (0.05 mL) was added to a solution of (9-(2,4-difluoro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(5-methylthiophen-2-yl)methanone (example 34, step a) (0.27 g) in DCM (5 mL) at 0° C. and the resulting mixture stirred for 5 min. Dess-Martin periodinane (0.38 g) was then added and the mixture stirred at RT for 45 min. Saturated sodium thiosulphate solution (5 mL), saturated sodium bicabonate solution (5 mL) and ethyl acetate (20 mL) were then added and the mixture stirred vigorously for 10 min. The aqueous phase was separated and extracted with ethyl acetate (20 mL). The combined organic solutions were washed with brine (20 mL), acidified with a few drops of acetic acid, dried over sodium sulphate, filtered and evaporated to give the subtitled compound as a clear gum. Yield 0.27 g.

reactant | TFA | 0.05 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (9-(2,4-difluoro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(5-methylthiophen-2-yl)methanone | FC1=C(CN2CCC3(CN(CCO3)C(=O)C=3SC(=CC3)C)CC2)C=CC(=C1CCO)F | C23H28F2N2O3S
reactant | Dess-Martin periodinane | 0.38 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulphate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicabonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-Difluoro-3-((4-(5-methylthiophene-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenyl)acetaldehyde | FC1=C(C(=CC=C1CN1CCC2(CN(CCO2)C(=O)C=2SC(=CC2)C)CC1)F)CC=O | C23H26F2N2O3S
